US07829580B2
A mixture of 1H-pyrazole-4-carbaldehyde (14.5 g), acetonitrile (300 ml), di(t-butyl)dicarbonate (36.0 g) and tetramethylammonium hydroxide was stirred at room temperature for 30 minutes. The reaction was stopped by addition of a saturated aqueous sodium chloride solution, and the products were extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo, and the residue was purified by chromatography on silica gel using a mixture of hexane and ethyl acetate (2:1) as the eluent to afford 1-(t-butoxycarbonyl)-1H-pyrazol-4-carbaldehyde (24.74 g, yield: 84%).

reactant | 1H-pyrazole-4-carbaldehyde | 14.5 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | di(t-butyl)dicarbonate | 36.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 1-(t-butoxycarbonyl)-1H-pyrazol-4-carbaldehyde | 24.74 g, yield: 84% | C(C)(C)(C)OC(=O)N1N=CC(=C1)C=O | C9H12N2O3
